US04973586
(a) 4-(3-Methoxyphenyl)-Δ3,4 -chromene
A solution of 3-methoxyphenyl magnesium bromide was prepared by adding 27.7 g of m-bromoanisole to a suspension of magnesium turnings (3.6 g) in 150 ml of tetrahydrofuran (THF) dropwise over 1 hr. The mixture was heated at reflux for 2 hrs. The resulting solution was cooled to 5° C. and a solution of 4-chromanone (20.0 g) in 50 ml of dry THF added over 2 hrs. at 15° C. The resulting mixture was stirred overnight at room temperature, cooled to 10° C., and treated with 1N HCl until pH 7 was reached. The mixture was diluted with water, extracted twice with 500 ml of ether, and the combined extracts dried over MgSO4. Filtration and evaporation gave 29.6 g of the title compound as an oil. NMR (CDCl3); δ3.81 (S,3H), 4.80 (d,J=4 Hz, 2H) 5.76 (t,J=4 Hz, 1H), 6.7- 7.4 (M,8H).

reactant | m-bromoanisole | 27.7 g | BrC=1C=C(C=CC1)OC | C7H7BrO
reactant | magnesium | 3.6 g | [Mg] | Mg
reactant | 4-chromanone | 20.0 g | O1CCC(C2=CC=CC=C12)=O | C9H8O2
reactant | HCl | 1N | Cl | ClH
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
solvent | THF | 50 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 3-methoxyphenyl magnesium bromide | COC=1C=C(C=CC1)[Mg]Br | InChI=1S/C7H7O.BrH.Mg/c1-8-7-5-3-2-4-6-7;;/h2-3,5-6H,1H3;1H;/q;;+1/p-1
